US06172057B2
2-(Octane-1-sulfonyl)-3-[4-(2-piperidin-yl-ethoxy)-phenyl]-propionic acid ethyl ester was prepared according to the general method as outlined in example 9. Starting from 2-(octane-1-sulfonyl)-propionic acid ethyl ester (5.0g, 18 mmol) and 1-[2-(4-chloromethylphenoxy)-ethyl]-piperidine (5.6g, 19.7 mmol); Yield 8.9g (96%); amber oil, MS 495.

reactant | 2-(octane-1-sulfonyl)-propionic acid ethyl ester | 18 mmol, 5.0g | C(C)OC(C(C)S(=O)(=O)CCCCCCCC)=O | C13H26O4S
reactant | 1-[2-(4-chloromethylphenoxy)-ethyl]-piperidine | 19.7 mmol, 5.6g | ClCC1=CC=C(OCCN2CCCCC2)C=C1 | C14H20ClNO
product | 2-(Octane-1-sulfonyl)-3-[4-(2-piperidin-yl-ethoxy)-phenyl]-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)OCCN1CCCCC1)S(=O)(=O)CCCCCCCC)=O | C26H43NO5S
